US06822102B2
rel-(2R,3S)-3,4-dihydro-5,6,7-trichloro-2-(trifluoromethyl)-2H-1-benzopyran-3-carboxylic acid
A solution of 6,7,8-trichloro-2-trifluoromethyl-2H-1-benzopyran-3-carboxylic acid (0.28 g, 0.81 mmol, prepared as described in WO98/47890, in ethanol (10 mL) was treated with concentrated HCl (5 mL) and zinc powder (1.21 g, 18.5 mmol). The mixture was stirred at room temperature for 3 hours, filtered, and concentrated in vacuo. The residue was extracted with ethyl acetate, washed with brine, dried over MgSO4, and concentrated in vacuo to give a white solid (0.31 g) which was a 3:2 mixture of cis and trans isomers. The isomers were separated by reverse phase HPLC to obtain the desired cis isomer as a white solid (0.11 g, 39%): mp 207.3-208.5° C. 1H NMR (acetone-d6/300 MHz) 7.23 (s, 1H), 5.17-5.31 (m, 1H), 3.58-3.72 (m, 1H), 3.19 (dd, 1H, J=17.9 Hz, 6.5 Hz), 3.10 (dd, 1H, J=17.9 Hz, 7.7 Hz) 19F NMR (acetone-d6/282 MHz) −74.6 (d, J=7.2 Hz). ESHRMS m/z 346.9270 (M−H, Calc'd 346.9256). Anal. Calc'd for C11H6Cl3F3O3: C, 37.80; H, 1.73; Cl, 30.43. Found: C, 37.66; H, 1.75; Cl, 30.71.

reactant | 6,7,8-trichloro-2-trifluoromethyl-2H-1-benzopyran-3-carboxylic acid | ClC=1C(=C(C2=C(C=C(C(O2)C(F)(F)F)C(=O)O)C1)Cl)Cl | C11H4Cl3F3O3
reactant | HCl | 5 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | zinc | 18.5 mmol, 1.21 g | [Zn] | Zn
product | rel-(2R,3S)-3,4-dihydro-5,6,7-trichloro-2-(trifluoromethyl)-2H-1-benzopyran-3-carboxylic acid | 0.31 g | ClC1=C(C(=CC2=C1C[C@@H]([C@@H](O2)C(F)(F)F)C(=O)O)Cl)Cl | C11H6Cl3F3O3
